US08067445B2
Step 2: 2-Ethylaminomethyl-4-methanesulfonyl-phenol
2-Hydroxy-5-methanesulfonyl-benzaldehyde (0.200 g, 1.0 mmol), ethylamine (2M in THF; 0.75 mL, 1.5 mmol), and sodium cyanoborohydride (0.095 g, 1.5 mmol) were combined in MeOH (10 mL). 4 Å Molecular sieves were added, followed by acetic acid (0.09 mL, 1.5 mmol), and the reaction was stirred for 1 hour. The mixture was filtered, and H2O (0.5 mL) was added and the solution was concentrated. The residue was partitioned between EtOAc (100 mL) and brine (20 mL), and the mixture was neutralized with 1N aqueous HCl (1 mL) and extracted six times with EtOAc, until minimal product was seen in the aqueous layer by analytical tlc. The combined organic layers were dried, filtered, and concentrated to give the title compound.

reactant | 2-Hydroxy-5-methanesulfonyl-benzaldehyde | 1.0 mmol, 0.200 g | OC1=C(C=O)C=C(C=C1)S(=O)(=O)C | C8H8O4S
reactant | ethylamine | 1.5 mmol, 2M, 0.75 mL | C(C)N | C2H7N
reactant | sodium cyanoborohydride | 1.5 mmol, 0.095 g | C(#N)[BH3-].[Na+]
reactant | acetic acid | 1.5 mmol, 0.09 mL | C(C)(=O)O | C2H4O2
solvent | MeOH | 10 mL | CO | CH4O
product | 2-Ethylaminomethyl-4-methanesulfonyl-phenol | C(C)NCC1=C(C=CC(=C1)S(=O)(=O)C)O | C10H15NO3S
